US03954892
Phenol dissolved in benzene is nitrated continuously by means of 58% nitric acid and the organic layer containing the mixture of ortho- and para-nitrophenol is separated from the residual nitric acid by decantation. The acid organic layer is successively neutralised by means of an aqueous solution of sodium sulphite, distilled until the benzene is removed and treated with steam in order to remove ortho-nitrophenol by steam distillation. An aqueous distillation residue of para-nitrophenol is thus obtained, the composition of which is substantially as follows:

reactant | Phenol | C1(=CC=CC=C1)O | C6H6O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | para-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
